US06583090B1
At from −5 to −10° C., a suspension of 123 g (858 mmol) of 2-chloro-4-aminophenol in 190 ml of conc. HCl was added dropwise to a solution of 71 g (1 mol) of NaNO2 in 190 ml of water. At from −5 to −10° C., this suspension was added to a solution of 354 g (1.72 mol) of SnCl2*2H2O in 800 ml of conc. HCl. The mixture was stirred at about 20-25° C. for approximately 14 hours and the crystalline material was filtered off and washed with water. After drying, 85 g of 3-chloro-4-hydroxyphenyldiazonium hydrochloride were obtained.

reactant | 2-chloro-4-aminophenol | 858 mmol, 123 g | ClC1=C(C=CC(=C1)N)O | C6H6ClNO
reactant | NaNO2 | 1 mol, 71 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 1.72 mol, 354 g | Cl[Sn]Cl
solvent | HCl | 190 ml | Cl | ClH
solvent | water | 190 ml | O | H2O
solvent | HCl | 800 ml | Cl | ClH
product | 3-chloro-4-hydroxyphenyldiazonium hydrochloride | 85 g | Cl.ClC=1C=C(C=CC1O)[N+]#N | InChI=1S/C6H3ClN2O.ClH/c7-5-3-4(9-8)1-2-6(5)10;/h1-3H;1H/p+1
